US09102692B2
6-Bromo-1-(toluene-4-sulfonyl)-1H-indole (340 mg, 0.97 mmol), Tris(dibenzylideneacetone)dipalladium (0) (23 mg, 0.025 mmol), and (3-diethoxyphosphinothioylsulfanyl-1,4-dioxan-2-yl)sulfanyl-diethoxy-sulfanylidene-phosphorane (Ruphos) (47 mg, 0.1 mmol) were placed into a reaction container. After deaeration, the air was replaced with nitrogen. Anhydrous tetrahydrofuran (THF) (5.0 ml) and a prepared zinc reagent suspension were added thereto, and this was stirred at 70° C. for 17 hours. After cooling it to room temperature, the reaction mixture was alkalinized with an aqueous solution saturated with sodium bicarbonate. The precipitated solid was removed by filtration. The filtrate was extracted with ethyl acetate. The extract was washed with water and an aqueous solution saturated with sodium chloride, and dried over anhydrous sodium sulfate. The desiccant was removed by filtration and concentration was performed. The residue obtained by concentration under reduced pressure was purified by silica gel column chromatography. Thus, 6-(1-methyl-piperidin-4-yl)-1-(toluene-4-sulfonyl)-1H-indole was obtained as a wax-like solid (293.7 mg, 82%).

reactant | 6-Bromo-1-(toluene-4-sulfonyl)-1H-indole | 0.97 mmol, 340 mg | BrC1=CC=C2C=CN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C | C15H12BrNO2S
reactant | (3-diethoxyphosphinothioylsulfanyl-1,4-dioxan-2-yl)sulfanyl-diethoxy-sulfanylidene-phosphorane | 0.1 mmol, 47 mg | C(C)OP(=S)(OCC)SC1C(OCCO1)SP(=S)(OCC)OCC | C12H26O6P2S4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | Tris(dibenzylideneacetone)dipalladium | 0.025 mmol, 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | zinc | [Zn] | Zn
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | 6-(1-methyl-piperidin-4-yl)-1-(toluene-4-sulfonyl)-1H-indole | CN1CCC(CC1)C1=CC=C2C=CN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C | C21H24N2O2S
